US04364956
4-Diethylamino-3-phenyl-3-buten-2-one
A solution of diethylstyrylamine (1.75 g) in acetic anhydride (5 ml) was heated under reflux for an hour and then distilled under vacuum (0.02 mm) in a bulb-to-bulb apparatus (oven 150° C.). The product was crystallised from ether-petroleum spirit (40°-60° C.) at low temperature, giving crystals of the title product which melted around room temperature.

reactant | diethylstyrylamine | 1.75 g | C(C)N(C=CC1=CC=CC=C1)CC | C12H17N
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Diethylamino-3-phenyl-3-buten-2-one | C(C)N(C=C(C(C)=O)C1=CC=CC=C1)CC | C14H19NO
